US05550147
A mixture of ethyl 4-{5-[4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)-1-pyrazolyl}phenoxyacetate (1.7 g), 10% sodium hydroxide (10 ml) in tetrahydrofuran (10 ml) and ethanol (40 ml) was refluxed for 3 hours. The solvent was evaporated, and the residue was dissolved in water and acidified with hydrochloric acid. The precipitates were filtered and recrystallized from a mixture of tetrahydrofuran, ethanol, and isopropyl ether to give 4-{5-[4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)-1-pyrazolyl}phenoxyacetic acid (1.1 g).

reactant | ethyl 4-{5-[4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)-1-pyrazolyl}phenoxyacetate | 1.7 g | CS(=O)(=O)C1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(OCC(=O)OCC)C=C1)C(F)(F)F | C21H19F3N2O5S
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 4-{5-[4-(methylsulfonyl)phenyl]-3-(trifluoromethyl)-1-pyrazolyl}phenoxyacetic acid | 1.1 g | CS(=O)(=O)C1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(OCC(=O)O)C=C1)C(F)(F)F | C19H15F3N2O5S
